US04329353
To a stirred mixture of 10.5 parts of 1-(4-fluorophenyl)-4-(4-oxo-1-phenyl-1,3,8-triazaspiro[4,5]dec-8-yl)-3-cyclohexene-1-carbonitrile, 1 part of sodium methoxide solution 30% and 320 parts of ethanol is added portionwise 1 part of sodium borohydride. Upon completion, starting at room temperature is continued for 6 hours. The reaction mixture is poured onto water and the product is extracted with trichloromethane. The extract is dried, filtered and evaporated. The residue is purified by column-chromatography over silica gel using a mixture of trichloromethane and 5% of methanol as eluent. The pure fractions are collected and the eluent is evaporated. The residue is crystallized from a mixture of methanol and 2-propanone, yielding 3.2 parts of 1-(4-fluorophenyl)-4-(4-oxo-1-phenyl-1,3,8-triazaspiro[4,5]dec-8-yl)cyclohexanecarbonitrile; mp. 236.1° C.

reactant | 1-(4-fluorophenyl)-4-(4-oxo-1-phenyl-1,3,8-triazaspiro[4,5]dec-8-yl)-3-cyclohexene-1-carbonitrile | FC1=CC=C(C=C1)C1(CC=C(CC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1)C#N | C26H27FN4O
reactant | sodium methoxide | C[O-].[Na+]
reactant | sodium borohydride | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1-(4-fluorophenyl)-4-(4-oxo-1-phenyl-1,3,8-triazaspiro[4,5]dec-8-yl)cyclohexanecarbonitrile | FC1=CC=C(C=C1)C1(CCC(CC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1)C#N | C26H29FN4O
